US09120788B2
Step 1. Synthesis of N-(3-fluoro-4-methylphenyl)-3-nitropyridin-2-amine (C1)
A mixture of 2-chloro-3-nitropyridine (4.76 g, 30.0 mmol), 3-fluoro-4-methylaniline (3.75 g, 30.0 mmol) and potassium carbonate (8.29 g, 60.0 mmol) in dimethyl sulfoxide (30 mL) was stirred at 140° C. for 40 minutes. The reaction mixture was then cooled to room temperature, diluted with water, and extracted with ethyl acetate. The combined organic layers were washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the product as a black solid. Yield: 6.78 g, 27.4 mmol, 91%. 1H NMR (400 MHz, CDCl3) δ 10.11 (br s, 1H), 8.54 (dd, J=8.3, 1.8 Hz, 1H), 8.51 (dd, J=4.6, 1.8 Hz, 1H), 7.59-7.64 (m, 1H), 7.15-7.21 (m, 2H), 6.86 (dd, J=8.4, 4.6 Hz, 1H), 2.28 (d, J=2.0 Hz, 3H).

reactant | 2-chloro-3-nitropyridine | 30.0 mmol, 4.76 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-fluoro-4-methylaniline | 30.0 mmol, 3.75 g | FC=1C=C(N)C=CC1C | C7H8FN
reactant | potassium carbonate | 60.0 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(3-fluoro-4-methylphenyl)-3-nitropyridin-2-amine | FC=1C=C(C=CC1C)NC1=NC=CC=C1[N+](=O)[O-] | C12H10FN3O2
